* Created by KLayout
*** My special header ***

* cell AM_Radio
* pin DETIN
* pin DETOUT
* pin RFINN
* pin RFINP
* pin RFOUT
* pin VDD
* pin VREF
* pin VSS
* pin iB
.SUBCKT AM_Radio DETIN DETOUT RFINN RFINP RFOUT VDD VREF VSS iB
* cell instance $1 r0 *1 915,853.45
X$1 RFINP RFINN RFOUT \$57 VDD VSS cascode_opamp
* cell instance $2 r0 *1 913.7,1114.95
X$2 iB VDD \$57 \$53 VSS current_mirror
* cell instance $6 r0 *1 105,1.95
X$6 \$29 DETOUT VDD VREF \$53 DETIN VSS ideal_diode
.ENDS AM_Radio

* cell current_mirror
* pin IB
* pin VDD
* pin IB1
* pin IB2
* pin VSS
.SUBCKT current_mirror IB VDD IB1 IB2 VSS
* device instance $1 m45 *1 -593.2,-435.3 PMOS
XM$1 VB2 IB \$18 VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $2 r90 *1 -683,-435.3 PMOS
XM$2 IB IB VB4 VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $3 r90 *1 -683,-399 PMOS
XM$3 VB4 VB4 VDD VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $4 m45 *1 -593.2,-399 PMOS
XM$4 \$18 VB4 VDD VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $5 r90 *1 -593.1,-470 NMOS
XM$5 VB1 VB2 VB2 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $6 r90 *1 -593.1,-489.8 NMOS
XM$6 VSS VB1 VB1 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $7 m45 *1 -524.3,-489.8 NMOS
XM$7 VSS VB1 \$21 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $8 m45 *1 -459.9,-489.9 NMOS
XM$8 VSS VB1 \$15 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $9 m45 *1 -524.3,-470 NMOS
XM$9 \$21 VB2 IB1 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $10 m45 *1 -459.9,-470.1 NMOS
XM$10 \$15 VB2 IB2 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
.ENDS current_mirror

* cell ideal_diode
* pin 
* pin VOUT
* pin VDD
* pin VREF
* pin IB
* pin VIN
* pin VSS
.SUBCKT ideal_diode \$1 VOUT VDD VREF IB VIN VSS
* cell instance $13 r0 *1 810,590
X$13 VIN VOUT \$1 IB VDD VSS cascode_opamp_2
* device instance $1 r0 *1 676.3,-103.6 DP
D$1 \$1 VOUT DP A=51.84p P=57.6u
* device instance $5 r0 *1 676.3,-43.6 DP
D$5 VREF \$1 DP A=51.84p P=57.6u
* device instance $9 r0 *1 520,-60.7 F_RR
XR$9 VOUT VREF VDD F_RR R=19.25 L=77u W=4u A=308p P=162u m=1
* device instance $10 r90 *1 625.1,-60.7 F_CSIO
XC$10 \$1 VOUT VSS F_CSIO C=5.4e-13 A=900p P=120u X=30 Y=30 m=1
.ENDS ideal_diode

* cell cascode_opamp
* pin VIN_P
* pin VIN_N
* pin VOUT
* pin IB
* pin VDD
* pin VSS
.SUBCKT cascode_opamp VIN_P VIN_N VOUT IB VDD VSS
* device instance $1 r90 *1 -152.8,-406.1 PMOS
XM$1 VOUT IB VDD VDD PMOS L=1u W=300u AS=528p AD=528p PS=377.6u PD=377.6u
* device instance $6 m45 *1 -306.7,-435.3 PMOS
XM$6 NET11 IB \$59 VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $7 r90 *1 -683,-435.3 PMOS
XM$7 IB IB VB4 VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $8 m45 *1 -593.2,-435.3 PMOS
XM$8 VB2 IB \$61 VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $9 r90 *1 -491.3,-435.3 PMOS
XM$9 NET3 NET3 NET1 VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $10 m45 *1 -401.5,-435.3 PMOS
XM$10 OUT1 NET3 \$60 VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $11 m45 *1 -593.2,-399 PMOS
XM$11 \$61 VB4 VDD VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $12 m45 *1 -306.7,-399 PMOS
XM$12 \$59 VB4 VDD VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $13 m45 *1 -401.5,-399 PMOS
XM$13 \$60 NET1 VDD VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $14 r90 *1 -683,-399 PMOS
XM$14 VB4 VB4 VDD VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $15 r90 *1 -491.3,-399 PMOS
XM$15 NET1 NET1 VDD VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $16 r90 *1 -307.1,-549.1 NMOS
XM$16 VSS NET8 NET8 VSS NMOS L=1u W=20u AS=56p AD=56p PS=45.6u PD=45.6u
* device instance $17 r90 *1 -307.1,-509.8 NMOS
XM$17 NET8 NET11 NET11 VSS NMOS L=1u W=20u AS=56p AD=56p PS=45.6u PD=45.6u
* device instance $18 r90 *1 -230.4,-509.5 NMOS
XM$18 NET7 NET11 OUT1 VSS NMOS L=1u W=20u AS=56p AD=56p PS=45.6u PD=45.6u
* device instance $19 r90 *1 -402.2,-511.5 NMOS
XM$19 \$25 VIN_P NET6 VSS NMOS L=1u W=80u AS=172p AD=172p PS=128.6u PD=128.6u
* device instance $21 r90 *1 -491.3,-511.5 NMOS
XM$21 \$24 VIN_N NET6 VSS NMOS L=1u W=80u AS=172p AD=172p PS=128.6u PD=128.6u
* device instance $23 r90 *1 -152.4,-475.3 NMOS
XM$23 VSS OUT1 VOUT VSS NMOS L=1u W=200u AS=352p AD=352p PS=257.6u PD=257.6u
* device instance $28 r90 *1 -593.1,-489.8 NMOS
XM$28 VSS VB1 VB1 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $29 r90 *1 -593.1,-470 NMOS
XM$29 VB1 VB2 VB2 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $30 r90 *1 -445.5,-554.4 NMOS
XM$30 VSS VB1 NET6 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $31 r90 *1 -491.4,-470 NMOS
XM$31 \$24 VB2 NET3 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $32 r90 *1 -401.4,-470 NMOS
XM$32 \$25 VB2 OUT1 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $33 r90 *1 -186,-539 F_CSIO
XC$33 NET7 VOUT VSS F_CSIO C=5.4e-13 A=900p P=120u X=30 Y=30 m=1
.ENDS cascode_opamp

* cell cascode_opamp_2
* pin VIN_P
* pin VIN_N
* pin VOUT
* pin IB
* pin VDD
* pin VSS
.SUBCKT cascode_opamp_2 VIN_P VIN_N VOUT IB VDD VSS
* device instance $1 r90 *1 -152.8,-406.1 PMOS
XM$1 VOUT IB VDD VDD PMOS L=1u W=300u AS=528p AD=528p PS=377.6u PD=377.6u
* device instance $6 m45 *1 -306.7,-435.3 PMOS
XM$6 NET11 IB \$59 VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $7 r90 *1 -683,-435.3 PMOS
XM$7 IB IB VB4 VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $8 m45 *1 -593.2,-435.3 PMOS
XM$8 VB2 IB \$61 VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $9 r90 *1 -491.3,-435.3 PMOS
XM$9 NET3 NET3 NET1 VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $10 m45 *1 -401.5,-435.3 PMOS
XM$10 OUT1 NET3 \$60 VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $11 m45 *1 -593.2,-399 PMOS
XM$11 \$61 VB4 VDD VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $12 m45 *1 -306.7,-399 PMOS
XM$12 \$59 VB4 VDD VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $13 m45 *1 -401.5,-399 PMOS
XM$13 \$60 NET1 VDD VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $14 r90 *1 -683,-399 PMOS
XM$14 VB4 VB4 VDD VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $15 r90 *1 -491.3,-399 PMOS
XM$15 NET1 NET1 VDD VDD PMOS L=1u W=30u AS=84p AD=84p PS=65.6u PD=65.6u
* device instance $16 r90 *1 -307.1,-549.1 NMOS
XM$16 VSS NET8 NET8 VSS NMOS L=1u W=20u AS=56p AD=56p PS=45.6u PD=45.6u
* device instance $17 r90 *1 -307.1,-509.8 NMOS
XM$17 NET8 NET11 NET11 VSS NMOS L=1u W=20u AS=56p AD=56p PS=45.6u PD=45.6u
* device instance $18 r90 *1 -230.4,-509.5 NMOS
XM$18 NET7 NET11 OUT1 VSS NMOS L=1u W=20u AS=56p AD=56p PS=45.6u PD=45.6u
* device instance $19 r90 *1 -402.2,-511.5 NMOS
XM$19 \$25 VIN_P NET6 VSS NMOS L=1u W=80u AS=172p AD=172p PS=128.6u PD=128.6u
* device instance $21 r90 *1 -491.3,-511.5 NMOS
XM$21 \$24 VIN_N NET6 VSS NMOS L=1u W=80u AS=172p AD=172p PS=128.6u PD=128.6u
* device instance $23 r90 *1 -152.4,-475.3 NMOS
XM$23 VSS OUT1 VOUT VSS NMOS L=1u W=200u AS=352p AD=352p PS=257.6u PD=257.6u
* device instance $28 r90 *1 -593.1,-489.8 NMOS
XM$28 VSS VB1 VB1 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $29 r90 *1 -593.1,-470 NMOS
XM$29 VB1 VB2 VB2 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $30 r90 *1 -445.5,-554.4 NMOS
XM$30 VSS VB1 NET6 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $31 r90 *1 -491.4,-470 NMOS
XM$31 \$24 VB2 NET3 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $32 r90 *1 -401.4,-470 NMOS
XM$32 \$25 VB2 OUT1 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $33 r90 *1 -186,-539 F_CSIO
XC$33 NET7 VOUT VSS F_CSIO C=5.4e-13 A=900p P=120u X=30 Y=30 m=1
.ENDS cascode_opamp_2
