** sch_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/AM_Radio/Yamada3/xschem/AM_Radio.sch
.subckt AM_Radio VDD iB VREF RFINP RFINN RFOUT DETIN DETOUT VSS
*.PININFO VREF:I VSS:B VDD:B iB:B RFINN:I RFINP:I DETIN:I RFOUT:O DETOUT:O
x3 VDD VSS DETIN DETOUT iB2 VREF ideal_diode
x1 VDD VSS iB iB1 iB2 current_mirror
x2 VDD VSS RFINP RFINN RFOUT iB1 cascode_opamp
.ends

* expanding   symbol:  ideal_diode.sym # of pins=6
** sym_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/AM_Radio/Yamada3/xschem/ideal_diode.sym
** sch_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/AM_Radio/Yamada3/xschem/ideal_diode.sch
.subckt ideal_diode VDD VSS VIN VOUT iB VREF
*.PININFO VDD:B VIN:I VOUT:O VSS:B VREF:B iB:B
XR1 VOUT VREF VDD F_RR w=4e-06 l=76.9e-06
x1 VDD VSS VIN VOUT opout iB cascode_opamp_2
XXC1 opout VOUT VSS F_CSIO x=30u y=30u A=900p P=120u
DD1 opout VOUT DP A=12.96p P=14.4u m=4
DD2 VREF opout DP A=12.96p P=14.4u m=4
.ends


* expanding   symbol:  current_mirror.sym # of pins=5
** sym_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/AM_Radio/Yamada3/xschem/current_mirror.sym
** sch_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/AM_Radio/Yamada3/xschem/current_mirror.sch
.subckt current_mirror VDD VSS iB iB1 iB2
*.PININFO VDD:B VSS:B iB:B iB1:B iB2:B
MMM13 VB2 VB2 VB1 VSS NMOS w=10u l=1u
MMM14 VB1 VB1 VSS VSS NMOS w=10u l=1u
MMM23 VB4 VB4 VDD VDD PMOS w=30u l=1u
MMM24 VB2 iB net1 VDD PMOS w=30u l=1u
MMM25 net1 VB4 VDD VDD PMOS w=30u l=1u
MMM26 iB iB VB4 VDD PMOS w=30u l=1u
MMM1 iB1 VB2 net2 VSS NMOS w=10u l=1u
MMM2 net2 VB1 VSS VSS NMOS w=10u l=1u
MMM3 iB2 VB2 net3 VSS NMOS w=10u l=1u
MMM4 net3 VB1 VSS VSS NMOS w=10u l=1u
.ends


* expanding   symbol:  cascode_opamp.sym # of pins=6
** sym_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/AM_Radio/Yamada3/xschem/cascode_opamp.sym
** sch_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/AM_Radio/Yamada3/xschem/cascode_opamp.sch
.subckt cascode_opamp VDD VSS VIN_P VIN_N VOUT iB
*.PININFO VOUT:O VIN_N:I VIN_P:I VSS:I VDD:I iB:I
MMM2 net2 net1 VDD VDD PMOS w=30u l=1u
MMM4 OUT1 VB2 net5 VSS NMOS w=10u l=1u
MMM7 VOUT iB VDD VDD PMOS w=300u l=1u
MMM8 VOUT OUT1 VSS VSS NMOS w=200u l=1u
MMM16 net1 net1 VDD VDD PMOS w=30u l=1u
MMM17 OUT1 net3 net2 VDD PMOS w=30u l=1u
MMM18 net3 net3 net1 VDD PMOS w=30u l=1u
MMM19 net3 VB2 net4 VSS NMOS w=10u l=1u
MMM20 net5 VIN_P net6 VSS NMOS w=80u l=1u
MMM21 net4 VIN_N net6 VSS NMOS w=80u l=1u
MMM22 net6 VB1 VSS VSS NMOS w=10u l=1u
MMM3 net7 net11 OUT1 VSS NMOS w=20u l=1u
MMM6 net8 net8 VSS VSS NMOS w=20u l=1u
MMM13 VB2 VB2 VB1 VSS NMOS w=10u l=1u
MMM14 VB1 VB1 VSS VSS NMOS w=10u l=1u
MMM23 VB4 VB4 VDD VDD PMOS w=30u l=1u
MMM24 VB2 iB net9 VDD PMOS w=30u l=1u
MMM25 net9 VB4 VDD VDD PMOS w=30u l=1u
MMM26 iB iB VB4 VDD PMOS w=30u l=1u
MMM1 net11 iB net10 VDD PMOS w=30u l=1u
MMM9 net10 VB4 VDD VDD PMOS w=30u l=1u
MMM5 net11 net11 net8 VSS NMOS w=20u l=1u
XXC1 net7 VOUT VSS F_CSIO x=30u y=30u A=900p P=120u
.ends


* expanding   symbol:  cascode_opamp_2.sym # of pins=6
** sym_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/AM_Radio/Yamada3/xschem/cascode_opamp_2.sym
** sch_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/AM_Radio/Yamada3/xschem/cascode_opamp_2.sch
.subckt cascode_opamp_2 VDD VSS VIN_P VIN_N VOUT iB
*.PININFO VOUT:O VIN_N:I VIN_P:I VSS:I VDD:I iB:I
MMM2 net2 net1 VDD VDD PMOS w=30u l=1u
MMM4 OUT1 VB2 net5 VSS NMOS w=10u l=1u
MMM7 VOUT iB VDD VDD PMOS w=300u l=1u
MMM8 VOUT OUT1 VSS VSS NMOS w=200u l=1u
MMM16 net1 net1 VDD VDD PMOS w=30u l=1u
MMM17 OUT1 net3 net2 VDD PMOS w=30u l=1u
MMM18 net3 net3 net1 VDD PMOS w=30u l=1u
MMM19 net3 VB2 net4 VSS NMOS w=10u l=1u
MMM20 net5 VIN_P net6 VSS NMOS w=80u l=1u
MMM21 net4 VIN_N net6 VSS NMOS w=80u l=1u
MMM22 net6 VB1 VSS VSS NMOS w=10u l=1u
MMM3 net7 net11 OUT1 VSS NMOS w=20u l=1u
MMM6 net8 net8 VSS VSS NMOS w=20u l=1u
MMM13 VB2 VB2 VB1 VSS NMOS w=10u l=1u
MMM14 VB1 VB1 VSS VSS NMOS w=10u l=1u
MMM23 VB4 VB4 VDD VDD PMOS w=30u l=1u
MMM24 VB2 iB net9 VDD PMOS w=30u l=1u
MMM25 net9 VB4 VDD VDD PMOS w=30u l=1u
MMM26 iB iB VB4 VDD PMOS w=30u l=1u
MMM1 net11 iB net10 VDD PMOS w=30u l=1u
MMM9 net10 VB4 VDD VDD PMOS w=30u l=1u
MMM5 net11 net11 net8 VSS NMOS w=20u l=1u
XXC1 net7 VOUT VSS F_CSIO x=30u y=30u A=900p P=120u
.ends

